Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
chest pain
 
Major Surgical or Invasive Procedure:
none
 
History of Present Illness:
___ y/oM with CAD s/p recent ___ 3, asymptomatic HIV, HCV 
cirrhosis c/b portal hypertension, chronic hyponatremia p/w 
chest discomfort.  

Patient complained of acute onset chest discomfort this am 
around 10am after returning from shopping. Symptoms were 
accompanied by diaphoresis, nausea and dizziness. No fever, SOB, 
abdominal pain, emesis or other complaints. Pain lasted 
approximately 45 min until EMS came and was given baby ASA. Of 
note, symptoms are similar to prior anginal pain when presented 
with NSTEMI. However, he has also had similar discomfort 
prompting 2 ED visits in the last month, in the setting of a 
normal persantine stress test in ___.  

In the ED, initial VS were: 98.3 84 140/64 18 100%. EKG showed 
no acute changes. Initial labs were remarkable to hyponatremia 
to 124, negative troponin which per patient is similar to 
previous values. Given acetaminophen and 500xx IVF and admitted 
to medicine for further evaluation.  

On the floor, patient comfortable with no particular complaints. 
He complains of gradual loss of appetite and poor oral intake. 
Denies any significant weight changes, orthopnea, PND, 
peripheral edema. Recently started on doxyxline for a diagnosis 
of prostatitis.  
 
Review of systems:  
(+) Per HPI  
(-) Denies fever, chills, night sweats, recent weight loss or 
gain. Denies headache, sinus tenderness, rhinorrhea or 
congestion. Denied cough, shortness of breath. Denied nausea, 
vomiting, diarrhea, constipation or abdominal pain. No recent 
change in bowel or bladder habits. No dysuria. Denied 
arthralgias or myalgias 

 
Past Medical History:
HIV  
Hepatitis C cirrhosis c/b portal HTN  
Chronic Renal Failure  
HTN  
Cervical Stenosis s/p surgical procedure in ___  
COPD  
Colonic Polyps  
Anemia of Chronic Disease  
Bilateral Cataracts  
Scrotal Varicocele/Hydrocele  
Erectile Dysfunction  
Peripheral Neuropathy  
G6PD defeciency  
?h/o TB ___ - while working at ___, treated for 9 mos  
RPR + in ___ treated  

 
Social History:
___
Family History:
Brother - TB
Mother - heart problems 
No premature CAD

 
Physical Exam:
Vitals: T: 96.6 BP: 152/ 70 P: 88 R: 16 O2: 100%RA  
General: Alert, oriented, thin cachexic male  
HEENT: Sclera anicteric, MMM, no thrush; prominent temporal 
wating  
Neck: supple, JVP not elevated, no LAD  
Lungs: Clear to auscultation bilaterally, no wheezes, rales, 
rhonchi  
CV: RRR, normal S1 + S2, no murmurs, rubs, gallops  
Abdomen: soft, non-tender, non-distended, bowel sounds present, 
no ascites or hepatosplenomegaly  
Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema  
Neuro: CN II-XII intact, strength ___ b/l; DTRs 2+and symmetric, 
cerebellar exam intact by FNF  

 
Pertinent Results:
Labs on admission:
___ 12:16PM   WBC-5.0 RBC-3.52* HGB-10.9* HCT-32.9* MCV-94 
MCH-31.0 MCHC-33.1 RDW-12.9
___ 12:16PM   NEUTS-36.9* LYMPHS-52.0* MONOS-8.6 EOS-1.8 
BASOS-0.7
___ 12:16PM   PLT COUNT-190
___ 12:16PM   ___ PTT-35.9 ___
___:16PM   OSMOLAL-259*
___ 12:16PM   ALBUMIN-4.0
___ 12:16PM   ALT(SGPT)-54* AST(SGOT)-76* ALK PHOS-77 TOT 
BILI-0.4
___ 12:16PM   GLUCOSE-85 UREA N-14 CREAT-1.2 SODIUM-124* 
POTASSIUM-4.8 CHLORIDE-89* TOTAL CO2-23 ANION GAP-17

Cardiac enzymes:
___ 12:16PM BLOOD cTropnT-<0.01
___ 11:42PM BLOOD CK-MB-3 cTropnT-<0.01

Urine lytes/ osmolality:
___ 02:48PM URINE Color-Yellow Appear-Clear Sp ___
___ 02:48PM URINE Blood-NEG Nitrite-NEG Protein-30 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-7.0 Leuks-NEG
___ 02:48PM URINE RBC-1 WBC-<1 Bacteri-NONE Yeast-NONE 
Epi-0
___ 02:48PM URINE Hours-RANDOM UreaN-372 Creat-75 Na-29 
K-51 Cl-33
___ 03:00PM URINE Hours-RANDOM Creat-53 Na-32 K-45 Cl-24 
Uric Ac-10.8
___ 02:48PM URINE Osmolal-293
___ 03:00PM URINE Osmolal-294
___ 11:30AM URINE Osmolal-460

CXR: ___
The lungs are clear. There is no focal consolidation or 
pneumothorax. There is no vascular congestion or pleural 
effusions. Cardiomediastinal and hilar contours are within 
normal limits. Cervical spinal hardware is incompletely imaged 
on this chest radiograph.
 IMPRESSION: No acute cardiopulmonary process.

EKG: ___
NSR at 81bpm. Sinus rhythm. Anterior precordial J point 
elevation with early repolarization may be a normal variant. 
Compared to the previous tracing there is no diagnostic change.

Discharge Labs:
___ 07:30AM BLOOD Glucose-91 UreaN-23* Creat-1.3* Na-129* 
K-4.8 Cl-99 HCO3-21* AnGap-___ y/oM with CAD s/p recent DES, asymptomatic HIV, HCV cirrhosis 
c/b portal hypertension, chronic hyponatremia who presented with 
atypical chest discomfort that was most likely noncardiac in 
etiology.  Evaluation of chronic hyponatremia was consistent 
with inappropriate secretion of ADH. 

ACTIVE ISSUES:

1.  chest pain: patient presented with atypical chest pain which 
resolved spontaneously prior to presentation to the emergency 
department.  Cause of chest discomfort was unclear, but there 
was low concern for a cardiac etiology with unchanged serial 
EKGs, normal cardiac enzymes x 2 and recent normal persantine 
stress results.  CXR was within normal limits and patient denied 
any symptoms consistent with musculoskeletal or gastointestinal 
causes of pain.  Patient continued on his aspirin, plavix, 
carvedilol and simvastatin for significant history of coronary 
artery disease.

2.  hyponatremia: Patient presented with asymptomatic 
hyponatremia which has been present for the past several months. 
  Evaluation was consistent with inappropriate secretion of ADH 
with euvolemic volume status, urinary Na excretion persistently> 
20 and urine osmolality in 300s.   TSH and am cortisol were 
within normal limits.  Patient was also administered carefully 
monitored IVF challenge x 2 to ensure that hypovolemia was not 
the cause of hyponatremia, especially given the history of poor 
oral intake/ failure to thrive.  Serum sodium did not improve 
with fluid challenges and urine osmolality increased slightly.  
The etiology of SIADH was not apparent with no clear 
precipitant: no evidence of malignancy or culprit drugs.  
Nephrology was consulted and recommended management with free 
water restriction and liberalization of salt intake.  Sodium 
should be periodically monitored as an outpatient, but at this 
time no further evaluation is warranted.

3. failure to thrive: patient complained of progressive appetite 
loss from unclear cause.  Although serum albumin was within 
normal limits, patient had prominent temporal wasting (of note, 
appearance may be partial due to lipodystrophy from long-term 
use of antiretrovirals).  He was started on low dose remeron as 
an appetite stimulant with dietary supplementation with all 
meals.  Nutritional status should be monitored as an outpatient.

CHRONIC MEDICAL PROBLEMS

4. HIV, asymptomatic: per patient well controlled with no 
evidence of opportunistic infections.  During hospitalization, 
he was continued on home antiretrovirals.    

5. HCV cirrhosis: LFTs and liver synthetic function at baseline. 
 Although patient has a history of portal hypertension which can 
be associated with chronic hyponatremia from RAS activation due 
to splanchnic vasodilitation, this did not seem to be the likely 
cause of electrolyte imbalance.  

6. HTN: continued on home dose of carvedilol

7. prostatitis: cont doxycycline  

 
Medications on Admission:
Plavix 75 mg Tablet daily
aspirin 325 mg Tablet daily
lamivudine 150 mg Tablet daily
efavirenz 600 mg Tablet QHS
abacavir 300 mg Tablet BID
multivitamin daily
carvedilol 6.25 mg Tablet BID
pravastatin 40 mg Tablet daily
doxyxline 100mg BID
Vitamin D-3 1,000 unit
 
Discharge Medications:
1. aspirin 325 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).  
2. clopidogrel 75 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
3. lamivudine 150 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
4. efavirenz 600 mg Tablet Sig: One (1) Tablet PO DAILY (Daily). 
 
5. abacavir 300 mg Tablet Sig: One (1) Tablet PO BID (2 times a 
day).  
6. carvedilol 6.25 mg Tablet Sig: One (1) Tablet PO BID (2 times 
a day).  
7. pravastatin 20 mg Tablet Sig: Two (2) Tablet PO HS (at 
bedtime).  
8. doxycycline hyclate 100 mg Capsule Sig: One (1) Capsule PO 
Q12H (every 12 hours).  
9. mirtazapine 15 mg Tablet Sig: 0.5 Tablet PO HS (at bedtime).
Disp:*30 Tablet(s)* Refills:*0*
10. multivitamin     Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
11. Vitamin D 1,000 unit Capsule Sig: One (1) Capsule PO once a 
day.  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary Diagnosis:
atypical chest pain
hyponatremia: likely secondary to SIADH

Secondary Diagnosis:
HIV
Coronary Artery Disease
Hepatitis C Cirrhosis
chronic kidney disease
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
 
Discharge Instructions:
Mr. ___,

You were admitted to the hospital with chest discomfort and low 
sodium in your blood.  You had no evidence of injury to your 
heart based on your cardiac enzymes and EKG.  For your low 
sodium, you were seen by the kidney specialists who think that 
the problem is due to inappropriately high levels of a hormone 
called ADH.  Eat plenty of salt and try to decrease your fluid 
to less than 2L daily.

Please make the following changes to your medication regimen:
START Mirtazapine 7.5mg daily
 
Followup Instructions:
___